* Z:\home\yannick\Nextcloud\HTWG\08_Bachalorarbeit\LTSpice\Draft4.asc
XU1 Vin Vout Vin Vin Vout 0 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 NC_11 NC_12 NC_13 NC_14 NC_15 NC_16 NC_17 LTC2946 CA2=0 CA1=1 CA0=1 CA4=1 CA3=1 CA7=0 CA6=0 CA5=0
R1 Vout Vin 0.2
V1 Vin 0 30
R2 Vout 0 100
C1 Vin 0 0.1µ
.tran 1s
.lib LTC2946.sub
.backanno
.end
